US07294644B2
5-(3,5-Bis-trifluoromethyl-phenyl)-1-cyclohexylmethyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid piperidin-1-ylamide
The title compound was synthesized in analogy to example 203, from 5-(3,5-bis-trifluoromethyl-phenyl)-1-cyclohexylmethyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid methyl ester and 1-piperidinamine as R1R2NH, MS (ISP) 530.4 (M+H)+.

reactant | 5-(3,5-bis-trifluoromethyl-phenyl)-1-cyclohexylmethyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid methyl ester | COC(=O)C1=C(N(C(=C1C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC1CCCCC1)C | C23H25F6NO2
reactant | 1-piperidinamine | N1(CCCCC1)N | C5H12N2
product | 5-(3,5-Bis-trifluoromethyl-phenyl)-1-cyclohexylmethyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid piperidin-1-ylamide | N1(CCCCC1)NC(=O)C1=C(N(C(=C1C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC1CCCCC1)C | C27H33F6N3O
